US05801170
4-(Tetrazol-2-yl)bromobenzene
4-(Tetrazol-2-yl)aniline (450 mg, 2.8 mmol) in 48% HBr (10 ml) at -5° C. was stiired while sodium nitrite (193 mg, 2.8 mmol) was added portionwise over 5 minutes. The brown sludge was left stirring for 15 minutes and then added portionwise over 5 minutes to a refluxing mixture of copper (I) bromide (401 mg, 2.8 mmol) in 48% HBr (2 ml). The mixture was then heated at reflux for 1 minute, allowed to cool slightly, and poured into 10% ethylene diamine solution (20 ml). The aqueous solution was extracted with ethyl acetate, dried (Na2SO4), and evaporated to dryness under reduced pressure. The resulting mixture was purified by column chromatography on silica eluting with n-pentanelethyl acetate (4-10%) to afford the title compound as a white solid (238 mg, 38%).

reactant | 4-(Tetrazol-2-yl)aniline | 2.8 mmol, 450 mg | N=1N(N=NC1)C1=CC=C(N)C=C1 | C7H7N5
reactant | sodium nitrite | 2.8 mmol, 193 mg | N(=O)[O-].[Na+]
reactant | ethylene diamine | 20 ml | C(CN)N | C2H8N2
reactant | HBr | 10 ml | Br | BrH
reactant | HBr | 2 ml | Br | BrH
catalyst | copper (I) bromide | 2.8 mmol, 401 mg | [Cu]Br
product | 4-(Tetrazol-2-yl)bromobenzene | 238 mg, 38% | N=1N(N=NC1)C1=CC=C(C=C1)Br | C7H5BrN4
